US06764840B2
In the same manner as described in Example 20-(1), 2-amino-1-(t-butyldiphenylsilyloy)ethane (450 mg, 1.5 mmol) was acylated with (R)-3-decanoyloxytetradecanoic acid (600 mg, 1.5 mmol) in the presence of EDC MeI (594 mg, 2.0 mmol) and then deprotected with TBAF (1.0 M in THF, 2.5 mL, 2.5 mmol) in THF (10 mL) to afford 488 mg (81%) of 2-[(R)-3-decanoyloxytetradecanoylamino]ethanol as an off-white solid.

reactant | (R)-3-decanoyloxytetradecanoic acid | 1.5 mmol, 600 mg | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C24H46O4
reactant | EDC MeI | 2.0 mmol, 594 mg | C(CCl)Cl.CI
reactant | TBAF | 2.5 mmol, 1.0 M, 2.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(R)-3-decanoyloxytetradecanoylamino]ethanol | 488 mg, 81% | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)NCCO)CCCCCCCCCCC | C26H51NO4
